US06756385B2
A Parr hydrogenation bottle was charged with 1-cyclobutyl-4-nitro-1H-imidazole (Preparation 1, 3 g, 18 mmol) and ethyl acetate (70 mL) followed by 10% Pd on carbon (1.2 g) under a nitrogen atmosphere. The mixture was hydrogenated for 6 h under 50 psi H2 at 23° C. The mixture was then filtered through a pad of celite which was rinsed with dry methylene chloride (140 mL) into a flame-dried flask. The resulting solution was cooled to −78° C. and diisopropylethylamine (2.3 g, 18 mmol) was added followed by the dropwise addition of phenylchloroformate (2.5 g, 16.2 mmol). After 30 min, methanol (9 mL) containing acetic acid (1.8 mmol) was added. The reaction mixture was transferred to a separatory funnel, was diluted with ethyl acetate (200 mL), and was washed with water (2×). The aqueous layers were extracted with ethyl acetate (2×10 mL). The organic layers were combined, were washed with brine (2×), and were then dried (MgSO4), filtered, and concentrated in vacuo. The crude product was adsorbed onto silica gel and was purified by silica gel chromatography (1:1 hexanes-ethyl acetate) to afford 3 g (65% yield) of (1-cyclobutyl-1H-imidazol-4-yl)-carbamic acid phenyl ester; 1H NMR (400 MHz, CDCl3) δ7.4-7.3 (m, 2H), 7.22-7.18 (m, 3H), 4.5 (m, 1H), 2.46-2.30 (m, 4H), 1.83 (m, 2H); MS (AP/Cl): 258.2 (M+H)+.

reactant | 1-cyclobutyl-4-nitro-1H-imidazole | 18 mmol, 3 g | C1(CCC1)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O2
reactant | diisopropylethylamine | 18 mmol, 2.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylchloroformate | 16.2 mmol, 2.5 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | acetic acid | 1.8 mmol | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 1.2 g | [Pd] | Pd
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 9 mL | CO | CH4O
product | (1-cyclobutyl-1H-imidazol-4-yl)-carbamic acid phenyl ester | 3 g, 65% yield | C1(=CC=CC=C1)OC(NC=1N=CN(C1)C1CCC1)=O | C14H15N3O2
